US07112680B2
1-(5-Methyl-2-pyridyl)-1-ethanone-1-(1-methyl-1H-benzo[d]imidazol-2-yl)-hydrazone (1d-9)
A mixture of 2-acetyl-5-methylpyridine (1.00 g, 7.40 mmol) and 1-methyl-2-hydrazinobenzimidazole (1.20 g, 7.40 mmol) in 20 ml of methanol is stirred for 3 days at room temperature after the addition of 6 drops of glacial acetic acid. The reaction is monitored by means of thin layer chromatography (Polygram Sil G/UV234 prefabricated foils; eluting agent: CH2Cl2:MeOH (12:1)). Subsequently, the reaction mixture is diluted with distilled water until a precipitate forms and stored for 24 hours in the refrigerator at approximately 5° C. The precipitate is filtered, washed several times with 50% methanol, and dried. The product is recrystallized from a mixture of methanol and water: Yield: 1.54 g (73% of theory).

reactant | 2-acetyl-5-methylpyridine | 7.40 mmol, 1.00 g | C(C)(=O)C1=NC=C(C=C1)C | C8H9NO
reactant | 1-methyl-2-hydrazinobenzimidazole | 7.40 mmol, 1.20 g | CN1C(=NC2=C1C=CC=C2)NN | C8H10N4
solvent | methanol | 20 ml | CO | CH4O
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
product | 1-(5-Methyl-2-pyridyl)-1-ethanone-1-(1-methyl-1H-benzo[d]imidazol-2-yl)-hydrazone | CN1C(=NC2=C1C=CC=C2)NN=C(C)C2=NC=C(C=C2)C | C16H17N5
